US04728645
5-(p-Formylphenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine
A solution of 0.16 ml of dimethylsulfoxide in 16 ml of methylene chloride is cooled to -70° under nitrogen and 0.17 g of oxalyl chloride is added dropwise. The reaction mixture is stirred for 30 min and 0.24 g of 5-(p-hydroxymethylphenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine in 4 ml of methylene chloride is added slowly. The reaction mixture is stirred for 2 h at -70°, 0.8 ml of triethylamine is added dropwise, and the reaction mixture is allowed to warm slowly to room temperature. The reaction mixture is diluted with 20 ml of methylene chloride, washed with water, dried over sodium sulfate and evaporated to yield the title compound which is purified by conversion to the furmaric acid salt, m.p. 131°.

reactant | dimethylsulfoxide | 0.16 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.17 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-(p-hydroxymethylphenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | 0.24 g | OCC1=CC=C(C=C1)C1CCCC=2N1C=NC2 | C14H16N2O
reactant | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 16 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 5-(p-Formylphenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | C(=O)C1=CC=C(C=C1)C1CCCC=2N1C=NC2 | C14H14N2O
